US07001917B2
Step 1. 2-[4-(3,5-Dimethyl-1H-pyrazol-1-yl)phenyl]ethanol
To a suspension of 4-aminophenylethylalcohol (7.27 g, 51.5 mmol) in conc. HCl (100 mL) was added dropwise a solution of sodium nitrate (3.9 g, 56 mmol) in water (100 mL) at −10° C. over 0.5 h. After stirring for 0.5 h, tin(II) chloride dihydrate (29 g, 128 mmol) in conc.HCl (100 mL) was added over 0.5 h and the resulting mixture was allowed to warm to room temperature. The mixture was stirred for 1 h and then added acetylacetone. The reaction mixture was warmed at 100° C. for 5 h. It was basified with aqueous NaOH (pH˜10). The mixture was extracted with dichloromethane, dried (Na2SO4), and evaporated to give the title compound quantitatively: MS (ESI) m/z 217 [M+H]+, 1H-NMR (CDCl3) δ 7.34-7.24 (4H, m), 5.98 (1H, s), 3.73 (2H, m), 2.84 (2H, m), 2.28 (3H, s), 2.27 (s, 3H).

reactant | 4-aminophenylethylalcohol | 51.5 mmol, 7.27 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | sodium nitrate | 56 mmol, 3.9 g | [N+](=O)([O-])[O-].[Na+]
reactant | tin(II) chloride dihydrate | 128 mmol, 29 g | O.O.[Sn](Cl)Cl
reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
reactant | NaOH | pH˜10 | [OH-].[Na+]
solvent | HCl | 100 mL | Cl | ClH
solvent | water | 100 mL | O | H2O
solvent | HCl | 100 mL | Cl | ClH
product | 2-[4-(3,5-Dimethyl-1H-pyrazol-1-yl)phenyl]ethanol | CC1=NN(C(=C1)C)C1=CC=C(C=C1)CCO | C13H16N2O
